US04697033
Following the procedure of Example 2, 2-[4-(1-methylpropylthio)phenoxy]ethanol (2.16 g, 10.0 mmol) is reacted with ethyl isocyanate (1.5 ml, 18.0 mmol) to give O-2-[4-(1-methylpropylthio)phenoxy]ethyl N-ethylcarbamate.

reactant | 2-[4-(1-methylpropylthio)phenoxy]ethanol | 10.0 mmol, 2.16 g | CC(CC)SC1=CC=C(OCCO)C=C1 | C12H18O2S
reactant | ethyl isocyanate | 18.0 mmol, 1.5 ml | C(C)N=C=O | C3H5NO
product | O-2-[4-(1-methylpropylthio)phenoxy]ethyl N-ethylcarbamate | C(C)NC(OCCOC1=CC=C(C=C1)SC(CC)C)=O | C15H23NO3S
